US08293786B2
Cannabidiol (t-butyldimethylsilyloxy)acetate (80 mg) was dissolved in dry dichloromethane (0.25 mL), cooled to −15° C. and treated with 0.25 mL of cold 2 M solution of triethylamine trihydrofluoride in dichloromethane. The reaction mixture was left at 5° C. for 65 h. The mixture was poured to an excess of aqueous saturated sodium bicarbonate/ethyl acetate cooled to 0° C. with vigorous stirring. Aqueous layer was extracted twice with ethyl acetate, the combined organic extracts were washed with brine, dried over anhydrous sodium sulfate and concentrated. The residue was chromatographed on silica gel with hexane-ethyl acetate (gradient 10:1, 4:1, 3:1) to afford 58 mg (95%) of cannabidiol glycolate (ALL00149) as an oil.

reactant | Cannabidiol (t-butyldimethylsilyloxy)acetate | 80 mg | CCCCCC=1C=C(C(=C(C1)O)[C@@H]2C=C(CC[C@H]2C(=C)C)C)O.[Si](C)(C)(C(C)(C)C)OCC(=O)[O-]
reactant | triethylamine trihydrofluoride | F.F.F.C(C)N(CC)CC
reactant | sodium bicarbonate ethyl acetate | C([O-])(O)=O.[Na+].C(C)(=O)OCC
solvent | dichloromethane | 0.25 mL | ClCCl | CH2Cl2
product | cannabidiol glycolate | 58 mg, 95% | CCCCCC=1C=C(C(=C(C1)O)[C@@H]2C=C(CC[C@H]2C(=C)C)C)O.C(CO)(=O)[O-] | InChI=1S/C21H30O2.C2H4O3/c1-5-6-7-8-16-12-19(22)21(20(23)13-16)18-11-15(4)9-10-17(18)14(2)3;3-1-2(4)5/h11-13,17-18,22-23H,2,5-10H2,1,3-4H3;3H,1H2,(H,4,5)/p-1/t17-,18+;/m0./s1
